US09145414B2
In accordance with Example 68 (Steps 1 and 2), tetrahydro-2H-pyran-4-ol was used instead of (S)-tetrahydrofuran-3-ol, and 6-methyl-4-nitro-1H-indole was used instead of 4-nitro-1H-indole to obtain 6-methyl-1-(tetrahydro-2H-pyran-4-yl)-1H-indol-4-amine.

reactant | tetrahydro-2H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
reactant | 6-methyl-4-nitro-1H-indole | CC1=CC(=C2C=CNC2=C1)[N+](=O)[O-] | C9H8N2O2
product | 6-methyl-1-(tetrahydro-2H-pyran-4-yl)-1H-indol-4-amine | CC=1C=C(C=2C=CN(C2C1)C1CCOCC1)N | C14H18N2O
